US08754226B2
To a solution of (S)-3-(4-(5-methyl-1H-tetrazol-1-yl)phenoxy)-1-(piperidin-4-yl)pyrrolidin-2-one hydrochloride salt (128 mg, 0.198 mmol) and DIEA (0.173 mL, 0.99 mmol) in DMF (3 mL) was added 2-chloro-5-ethylpyrimidine (85 mg, 0.532 mmol). The reaction was heated to 100° C. for 4 hours and then poured into water (10 mL) and EtOAc (10 mL). The organic layer was separated and the aqueous layer extracted with EtOAc (2×5 mL). The combined organic layers were dried with MgSO4 and concentrated in vacuo. The resulting material was purified by silica gel chromatography eluting with a gradient of 1:1 hexanes/EtOAc to EtOAc to yield (S)-1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)-3-(4-(5-methyl-1H-tetrazol-1-yl)phenoxy)pyrrolidin-2-one (15 mg, 17%) as an off white solid. Mass spectrum (apci) m/z=449.2 (M+H).

reactant | (S)-3-(4-(5-methyl-1H-tetrazol-1-yl)phenoxy)-1-(piperidin-4-yl)pyrrolidin-2-one hydrochloride salt | 0.198 mmol, 128 mg | Cl.CC1=NN=NN1C1=CC=C(O[C@@H]2C(N(CC2)C2CCNCC2)=O)C=C1
reactant | DIEA | 0.99 mmol, 0.173 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-5-ethylpyrimidine | 0.532 mmol, 85 mg | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | water | 10 mL | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (S)-1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)-3-(4-(5-methyl-1H-tetrazol-1-yl)phenoxy)pyrrolidin-2-one | 15 mg, 17% | C(C)C=1C=NC(=NC1)N1CCC(CC1)N1C([C@H](CC1)OC1=CC=C(C=C1)N1N=NN=C1C)=O | C23H28N8O2
